US06110922
(2-Bromophenyl)[2-chloro-4-(E-((3-acetamidopyrrolidin-1-yl)carbonyl) ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzadehyde, and 6-amino-1-hexanol with 3-acetamidopyrrolidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.14 (m, 1H), 8.07 (dd, J=9.8, 1.7 Hz, 1H), 7.80 (d, J=7.8 Hz, 1H), 7.64 (dd, J=8.1, 1.7 Hz, 1H), 7.25-7.47 (m, 4H), 7.10 (t, J=7.8 Hz, 1H), 7.03 (dd, J=8.1, 1.7 Hz, 1H), 3.45-4.34 (m, 6H), 2.02 (m, 2H), 1.81 (ap d, J=1.4 Hz, 1H). HRMS calculated for C21H20N2O2S1Br1Cl1 : 479.0196. Observed: 479.0183.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 3-acetamidopyrrolidine | C(C)(=O)NC1CNCC1 | C6H12N2O
product | (2-Bromophenyl)[2-chloro-4-(E-((3-acetamidopyrrolidin-1-yl)carbonyl) ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CC(CC1)NC(C)=O)Cl | C21H20BrClN2O2S
